US05691330
A mixture of 514 mg of 6-acety-3-(2-bromoethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine, 511 mg of 4-(6-fluoro-1H-indazol-3-yl)piperidine hydrochloride, 690 mg of potassium carbonate and 365 mg of potassium iodide in 10 ml of dimethylformamide and 10 ml of toluene was stirred at 90° C. for 22 hours and concentrated in vacuo. To the residue were added ethyl acetate and water, and separated. The ethyl acetate layer was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on a silica gel and recrystallized from the mixture of diisopropyl ether and isopropyl alcohol to give 170 mg of 6-acetyl-3-(2-(4-(6-fluoro-1H-indazol-3-yl)piperidin-1-yl)ethyl-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine monohydrate, m.p. 116°-119° C.

reactant | 6-acety-3-(2-bromoethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 514 mg | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCBr | C12H16BrNOS
reactant | 4-(6-fluoro-1H-indazol-3-yl)piperidine hydrochloride | 511 mg | Cl.FC1=CC=C2C(=NNC2=C1)C1CCNCC1
reactant | potassium carbonate | 690 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 365 mg | [I-].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-(6-fluoro-1H-indazol-3-yl)piperidin-1-yl)ethyl-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine monohydrate | O.FC1=CC=C2C(=NNC2=C1)C1CCN(CC1)CCC1=C(SC=2CNCCC21)C | InChI=1S/C22H27FN4S.H2O/c1-14-17(18-4-8-24-13-21(18)28-14)7-11-27-9-5-15(6-10-27)22-19-3-2-16(23)12-20(19)25-26-22;/h2-3,12,15,24H,4-11,13H2,1H3,(H,25,26);1H2
